US08222416B2
To a stirred solution of 5-bromo-1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine (17.0 g, 54.3 mmol) in dichloromethane (700 mL) was added 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (12.3 g, 54.3 mmol) in one portion. After 1 h, the resulting black mixture was diluted with a saturated aqueous sodium bicarbonate solution and stirred vigorously for 30 min. The solids were filtered off and the filtrate was separated. The aqueous layer was extracted with ethyl acetate. The combined organic solutions were dried over anhydrous sodium sulfate, concentrated in vacuo to afford 5-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine (16.5 g, 97%) which was used in the next step without further purification: 1H NMR (400 MHz, CDCl3) δ ppm 0.64 (s, 6H), 0.94 (s, 9H), 6.49 (d, J=3.4 Hz, 1H), 7.27 (d, J=3.4 Hz, 1H), 8.00 (d, J=2.3 Hz, 1H), 8.31 (d, J=2.3 Hz, 1H).

reactant | 5-bromo-1-(tert-butyl-dimethyl-silanyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine | 54.3 mmol, 17.0 g | BrC=1C=C2C(=NC1)N(CC2)[Si](C)(C)C(C)(C)C | C13H21BrN2Si
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 54.3 mmol, 12.3 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloromethane | 700 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 5-bromo-1-(tert-butyl-dimethyl-silanyl)-1H-pyrrolo[2,3-b]pyridine | 16.5 g, 97% | BrC=1C=C2C(=NC1)N(C=C2)[Si](C)(C)C(C)(C)C | C13H19BrN2Si
